Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Amoxicillin / codeine / iodine
 
Attending: ___.
 
Chief Complaint:
Elective Colostomy Takedown
 
Major Surgical or Invasive Procedure:
___: Colostomy take down, ileostomy formation.

 
History of Present Illness:
Per Operative Report: This woman has had an operation to carry 
the ___ procedure about 5 months ago.  It was thought that 
she needed to have her colostomy taken down as she wished to 
have it done.

 
Past Medical History:
sinusitis, hypertension, high cholesterol, asthma, 
hyperglycemia,
osteoporosis, colonoscopy ___, Cololonoscopy ___ could not
pass scope past sigmoid because of diverticular narrowing and
poor prep, reflux endoscopy ___ okay atrophic vaginitis
cervical and lumbar spondylosis

 
Social History:
___
Family History:
Family History: DM- Mother/Father

 
Physical ___:
Clinic visit:  ___:

Physical exam:
Temp: 97.0 ; P: 88 ; BP: 176/66 ; RR: 12 ; O2:100%
General: alert and oriented X3, in no acute distress
HEENT: oral mucosa moist, no lymphadenopathy
Resp: clear breath sounds bilaterally
CV: RRR, no murmurs, rubs or gallops
GI: soft, non-distended, mid-line scar healing well, ostomy in
place without surrounding erythema or drainage
Extremities: skin intact, mobile, absent trauma 

Physical examination upon discharge:  ___:

vital signs:  98.6, 102, bp=133/55, rr=20, 94% room air

GENERAL:  NAD

CV:  ns1, s2, -s3, -s4
ABDOMEN:  soft, mid-line staples clean and dry, ileostomy stoma 
pink, left side ostomy side with erythematous border, purulent 
drainage on dressing, outer border of ostomy dry, normagel 
applied, DSD.
EXT:  no pedal edema bil, no calf tenderness bil
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
___ 04:45AM BLOOD WBC-8.1 RBC-4.32 Hgb-12.7 Hct-39.5 MCV-91 
MCH-29.4 MCHC-32.2 RDW-16.4* RDWSD-54.7* Plt ___
___ 05:50AM BLOOD WBC-11.0* RBC-4.04 Hgb-11.7 Hct-37.5 
MCV-93 MCH-29.0 MCHC-31.2* RDW-16.4* RDWSD-56.2* Plt ___
___ 06:35AM BLOOD WBC-10.4* RBC-3.96 Hgb-11.6 Hct-37.2 
MCV-94# MCH-29.3# MCHC-31.2* RDW-16.3* RDWSD-56.1* Plt ___
___ 04:45AM BLOOD Glucose-136* UreaN-12 Creat-0.5 Na-139 
K-3.3 Cl-96 HCO3-29 AnGap-17
___ 05:50AM BLOOD Glucose-158* UreaN-6 Creat-0.4 Na-138 
K-3.2* Cl-97 HCO3-28 AnGap-16
___ 04:45AM BLOOD Calcium-9.3 Phos-3.6# Mg-3.1*
 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a history of a sigmoid 
colectomy and ___ procedure performed on ___, due to 
diverticulitis with perforation and
phlegmon development.  She had been doing well after her 
surgery.  She returned to the hospital to have a colostomy 
take-down.

On ___, she was taken to the operating room where she underwent 
colostomy take-down, extensive lysis of adhesions, and a loop 
ileostomy.  
The operative course was stable with a 200cc blood loss. During 
the procedure, a bridge was placed under the ileostomy.  At the 
close of the procedure ___ drain was placed in the left 
pelvis.  The patient was extubated after the procedure and 
monitored in the recovery room.  On POD #1, she was started on 
clears and advanced to a regular diet.  Her surgical pain was 
controlled with a PCA. She began to have ostomy output on POD 
#3.  She was assisted in caring for her ostomy by the ostomy 
nurse.  She was transitioned to oral analgesia and the PCA was 
discontinued. The bridge and ___ drain were removed on POD # 
5.

The patient was discharged on POD #5 in stable condition.  At 
the time of discharge, her vital signs were stable and she was 
afebrile.  She was tolerating a regular diet and voiding without 
difficulty.  Her incisional pain was controlled with oral 
analgesia. Prior to discharge, the Ostomy nurse reviewed the 
care of the ileostomy and answered the patient's questions.  

A follow-up appointment was made with Dr. ___ in 1 week.  
___ services were provided to assist the patient at home in 
caring for her ileostomy.    
    
 
Medications on Admission:
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D2] - Dosage uncertain -  
 (Prescribed by Other Provider)  
 FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - Advair Diskus 100 
mcg-50  
 mcg/dose powder for inhalation. twice a day - (Prescribed by  
 Other Provider)  
 SIMVASTATIN - simvastatin 10 mg tablet. 1 tablet(s) by mouth  
 daily - (Prescribed by Other Provider)  
 TIOTROPIUM BROMIDE [SPIRIVA WITH HANDIHALER] - Dosage uncertain 
-  
 (Prescribed by Other Provider)  
 
 Medications - OTC  
 ASCORBIC ACID [ACEROLA C] - Acerola C 500 mg chewable tablet. 1 
 
 tablet(s) by mouth daily - (Prescribed by Other Provider)  
 ASPIRIN - aspirin 81 mg chewable tablet. 1 tablet(s) by mouth  
 daily - (Prescribed by Other Provider)  
 B-COMPLEX WITH VITAMIN C [VITAMIN B COMPLEX WITH C] - Dosage  
 uncertain - (Prescribed by Other Provider)  
 LACTOBACILLUS COMBINATION NO.4 [PROBIOTIC] - Dosage uncertain - 
 
 (Prescribed by Other Provider)  
 OMEGA 3-DHA-EPA-FISH OIL [FISH OIL] - Dosage uncertain -  
 (Prescribed by Other Provider)  

 
Discharge Medications:
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
2. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
do NOT drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
3. Simvastatin 10 mg PO QPM 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Colostomy takedown, loop ileostomy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented to the ___ for an 
elective Colostomy takedown procedure.  You were taken to the 
Operating Room for this procedure on ___.  Because of 
complications during surgery, a loop ileostomy was created.  In 
your follow-up appointment in the Acute Care Surgery clinic, 
plans for an elective procedure for ileostomy takedown will be 
discussed. 

You have been visited by the Ostomy nurse and will be discharged 
to home with visiting nurse services.  You have tolerated a 
regular diet, worked with Physical Therapy and your pain is 
controlled on oral pain medication.  You are now medically 
cleared to be discharged to home to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

Monitoring Ostomy output/ Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 1000mL to 1500mL per day. 

*If Ostomy output >1 liter, take 4mg of Imodium, repeat 2mg with 
each episode of loose stool. Do not exceed 16mg/24 hours.
 
 
Followup Instructions:
___